US08278304B2
Step A: (2,4-Dimethoxyphenyl)(6-methylpyridin-2-yl)methanone.
6-Methylpyridine-2-carbonitrile (4.88 g, 41.3 mmol) was dissolved in THF (50 mL), cooled to 0° C. and 2,4-dimethoxyphenylmagnesium bromide (20.5 mL, 10.24 mmol, 0.5 M in THF) was added. The reaction aged at rt for 3 h and was quenched with HCl (45.4 mL, 91 mmol, 2 M diethyl ether). The reaction was concentrated and extracted with EtOAc. The aq layer was basified to pH 10 and extracted with EtOAc. The combined organic portions were washed with brine, dried with Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel gradient eluted with 0 to 50% EtOAc/hexane, affording the title compound. HPLC/MS: 258.3 (M+1); Rt=1.96 min.

reactant | 6-Methylpyridine-2-carbonitrile | 41.3 mmol, 4.88 g | CC1=CC=CC(=N1)C#N | C7H6N2
reactant | 2,4-dimethoxyphenylmagnesium bromide | 10.24 mmol, 0.5 M, 20.5 mL | COC1=C(C=CC(=C1)OC)[Mg]Br
reactant | HCl | 91 mmol, 2 M, 45.4 mL | Cl | ClH
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | (2,4-Dimethoxyphenyl)(6-methylpyridin-2-yl)methanone | COC1=C(C=CC(=C1)OC)C(=O)C1=NC(=CC=C1)C | C15H15NO3
